US05654307
A mixture of methyl cyanoacetate (3.25 g, 32.3 mmol), 1,4dithiane-2,5diol (5 g, 32.8 mmol), triethylamine (1 mL, 7.71 mmol) in EtOH (50 mL) is stirred at 40° C. for 1 h. The cooled solution is eluted through a silica plug with CH2Cl2. The filtrate is stripped to dryness to give crude methyl 2-aminothiophene-3-carboxylate which is carried on to the next reaction. 1H NMR (DMSO) δ 7.26 (1H, s), 6.82 (1H, d, J=5.8 Hz), 6.28 (1H, d, J=5.8 Hz), 3.69 (3H, s).

reactant | methyl cyanoacetate | 32.3 mmol, 3.25 g | C(#N)CC(=O)OC | C4H5NO2
reactant | 1,4dithiane-2,5diol | 32.8 mmol, 5 g | S1C(CSC(C1)O)O | C4H8O2S2
reactant | triethylamine | 7.71 mmol, 1 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 50 mL | CCO | C2H6O
product | methyl 2-aminothiophene-3-carboxylate | NC=1SC=CC1C(=O)OC | C6H7NO2S
